US06884868B1
A mixture of 4-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]benzoic acid (1.01 g), 1-hydroxybenzotriazole (370 mg) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (986 mg) in methylene chloride (100 ml) was stirred for 4 hours at room temperature then evaporated under reduced pressure. Water was added to the residue and the resulting precipitate collected by filtration, washed with water, then dried under hi-vacuum to give 4-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]benzoic acid benzotriazol-1-yl ester (1.197 g).

reactant | 4-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]benzoic acid | 1.01 g | C[C@@H]1CN(C[C@@H](O1)C)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C23H29N3O3
reactant | 1-hydroxybenzotriazole | 370 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 986 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]benzoic acid benzotriazol-1-yl ester | 1.197 g | N1(N=NC2=C1C=CC=C2)OC(C2=CC=C(C=C2)N2CCN(CC2)C2=CC=C(C=C2)N2C[C@H](O[C@H](C2)C)C)=O | C29H32N6O3
